US04503073
N-[2-(4-Fluorobenzoyl)-4-methylphenyl]acetamide
A Grignard reagent prepared from 87.5 g (0.5 mole) of p-bromofluorobenzene and excess magnesium in 800 ml of diethyl ether was slowly added to a solution of 2,6-dimethyl-3,1-benzoxazine-4-one in 300 ml of dry benzene and 200 ml of dry diethyl ether at 0° C. The mixture was allowed to warm to room temperature and stirring was continued for 2 hr. The reaction mixture was cooled to -15° C. and 500 ml of 3N hydrochloric acid was added. After about 10 min additional stirring, the organic layer was separated and washed with dilute sodium hydroxide solution. The organic layer was concentrated and the residue was dissolved in a mixture of 600 ml of 95% ethanol and 300 ml of 6N hydrochloric acid. The precipitate (crude titled product) in the amount of 123 g (ca 91%) was recrystallized from cyclohexane to give tan crystals, m.p. 140°-145° C.

reactant | p-bromofluorobenzene | 0.5 mole, 87.5 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | magnesium | [Mg] | Mg
reactant | 2,6-dimethyl-3,1-benzoxazine-4-one | CC1=NC2=C(C(O1)=O)C=C(C=C2)C | C10H9NO2
reactant | hydrochloric acid | 3N, 500 ml | Cl | ClH
solvent | diethyl ether | 800 ml | C(C)OCC | C4H10O
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | N-[2-(4-Fluorobenzoyl)-4-methylphenyl]acetamide | FC1=CC=C(C(=O)C2=C(C=CC(=C2)C)NC(C)=O)C=C1 | C16H14FNO2
